US09024032B2
A suspension of 3-(benzyloxy)-1-(4-butylphenyl)-5-cyclopropylpyridin-4(1H)-one (27 mg, 0.07 mmol) and 10% Pd/C (1 mg, 0.001 mmol) in a 1:50 mixture of AcOH:MeOH was stirred under H2 (1 atm) for 18 h. The reaction mixture was filtered (0.5μ), concentrated under reduced pressure and purified by reversed phase HPLC (2 cm×5 cm C18, acetonitrile-water gradient, 0.05% TFA added) to provide 1-(4-butylphenyl)-3-cyclopropyl-5-hydroxypyridin-4(1H)-one. 1H NMR (499 MHz, DMSO): δ 7.73 (s, 1 H); 7.55 (d, J=2.7 Hz, 1 H); 7.48 (d, J=8.1 Hz, 2 H); 7.35 (d, J=8.1 Hz, 2 H); 2.64 (t, J=7.7 Hz, 2 H); 2.04-1.95 (m, 1 H); 1.61-1.52 (m, 2 H); 1.37-1.27 (m, 2 H); 0.94-0.87 (m, 3 H); 0.84-0.75 (m, 4 H). HRMS (ES) Calc (M+H)+=284.1645. Found 284.1643.

reactant | 3-(benzyloxy)-1-(4-butylphenyl)-5-cyclopropylpyridin-4(1H)-one | 0.07 mmol, 27 mg | C(C1=CC=CC=C1)OC1=CN(C=C(C1=O)C1CC1)C1=CC=C(C=C1)CCCC | C25H27NO2
reactant | AcOH | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.001 mmol, 1 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | 1-(4-butylphenyl)-3-cyclopropyl-5-hydroxypyridin-4(1H)-one | C(CCC)C1=CC=C(C=C1)N1C=C(C(C(=C1)O)=O)C1CC1 | C18H21NO2
